Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
odynophagia

 
Major Surgical or Invasive Procedure:
EGD, intubation
 
History of Present Illness:
___ year old male with no significant past medical history 
presents with complaints of chest pain and odynophagia after 
eating fish for dinner last night.  After finishing dinner had 
sudden onset, sharp, mid- to lower chest pain, which lasted 
overnight.  Pt has not had anything to eat since then, because 
each time he swallows he feels the pain.  Came to the ED with 
concern that he might have a fish bone in his throat. He is 
tolerating his secretions.  No nausea, vomiting, SOB, or abd 
pain.  Of note, pt has a history of recent URI, including 
subjective fevers and chills.
.
In the ED, his initial vs were: 100.4, 120, 141/86, 20, 99%RA. 
Chest XR and CT chest showed nonspecific findings of esophageal 
thickening, no free air.  Patient's fever and chest pain were 
concerning for mediastinitis, and he received zosyn.  He 
received 1 L of fluids, zofran, a total of 8 mg of morphine.  GI 
evaluated the patient and will perform EGD tonight.  Per ED 
report, patient continues to have chest discomfort/pain.  His 
vitals on transfer were: 99, 132/78, 19, 99%RA

 
Past Medical History:
- borderline HTN
- hypercholesterolemia
- BPH
- h/o basal cell carcinoma 

 
Social History:
___
Family History:
No family history of early MI, malignancy. 
 
Physical Exam:
ADMISSION EXAM:
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
.
DISCHARGE EXAM:
VS - Temp 100.1 F, BP 108-139/66-77, HR 75-104 , RR 20 , O2-sat 
95% RA  
GENERAL - well-appearing man in NAD, comfortable, appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD, no crepitus  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - RRR, nl s1 and s2, no MRG,  
ABDOMEN - NABS, soft/NT/ND, no rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout  

 
Pertinent Results:
___ 11:55AM BLOOD WBC-7.1 RBC-4.58* Hgb-13.7* Hct-41.2 
MCV-90 MCH-29.8 MCHC-33.1 RDW-13.2 Plt ___
___ 11:55AM BLOOD Neuts-76.4* Lymphs-16.0* Monos-5.6 
Eos-0.8 Baso-1.1
___ 11:55AM BLOOD ___ PTT-27.1 ___
___ 11:55AM BLOOD Glucose-107* UreaN-19 Creat-1.3* Na-140 
K-4.3 Cl-104 HCO3-26 AnGap-14
___ 03:55AM BLOOD Calcium-8.6 Phos-3.6 Mg-2.2
___ 10:38PM BLOOD Type-ART pO2-164* pCO2-43 pH-7.38 
calTCO2-26 Base XS-0
___ 04:27PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:27PM URINE Blood-LG Nitrite-NEG Protein-25 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-4* pH-7.0 Leuks-NEG
___ 04:27PM URINE ___ Bacteri-NONE Yeast-NONE 
Epi-0
.
URINE     Site: CLEAN CATCH

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    <10,000 organisms/ml. 

.
___ 11:50 am SEROLOGY/BLOOD

                            **FINAL REPORT ___

   HELICOBACTER PYLORI ANTIBODY TEST (Final ___: 
      EQUIVOCAL BY EIA. 
           (Reference Range-Negative). 
.
___ Pathology Report Tissue: FOREIGN BODY (1 JAR) Study Date 
of ___ 
 
  
Report not finalized. 
.
___ ECG: Sinus tachycardia with occasional ventricular 
premature beats. Non-specific ST-T wave changes in the inferior 
leads. No previous tracing available for comparison.   
Read by: ___ 
 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
100 106 84 328/398 56 46 -6 
.
___ Chest X-ray (PA and Lat): FINDINGS: AP and lateral chest 
with no comparison available demonstrates no definite foreign 
body in the region of the esophagus. A 6-mm calcified nodule is 
seen in the left lower lung, likely a granuloma. The lungs are 
otherwise clear without consolidation, effusion, or 
pneumothorax. Calcified mediastinal nodes are likely the sequela 
of prior granulomatous infection. There is a tortuous contour of 
the ascending and descending aorta which also 
appearsaneurysmally dilated. The heart size is normal. The 
pulmonary vasculature is normal in appearance. 
IMPRESSION: 
1. No foreign body seen in the region of the esophagus, though 
plain film 
sensitivity for detection of a fish bone is low. If clinically 
indicated, 
this could be further evaluated with chest CT. 
2. Tortuous and aneurysmally dilated thoracic aorta.  
.
CT CHEST W/CONTRAST Study Date of ___ 2:11 ___ 
FINDINGS: There is mild bilateral dependent atelectasis with 
some 
bronchiectasis at the bases which could indicate chronic 
aspiration. No 
pneumothorax is present. A calcified granuloma within the lung 
parenchyma measuring up to 6 mm in the left lower lobe (2:34). 
Within the mediastinum, several calcified lymph nodes are also 
seen. 
There is diffuse thickening of the esophageal wall, including at 
the thoracic inlet. No foreign body is seen. No definite 
extraluminal air or fluid is seen. The ascending thoracic aorta 
is mildly aneurysmal measuring up to 4.1 x 4.0 cm (2:21). No 
pathologically enlarged lymph nodes are seen. The airways are 
patent to the segmental level. 
No concerning osseous lesion is seen. The included portions of 
the upper 
abdomen are grossly unremarkable. 
IMPRESSION:  
1. Esophageal wall thickening which could indicate inflammation. 
No foreign body or definite extraluminal air or fluid seen. 
2. Aneurysmal dilation of the ascending thoracic aorta. 
.
___ Portable AP Chest X-ray:  
Atelectasis at both the right and left base is present. No 
mediastinal air 
identified. No pneumothorax is present. 
IMPRESSION: Bilateral atelectasis.
.
DISCHARGE LABS:
___ 06:30AM BLOOD WBC-6.1 RBC-4.31* Hgb-13.1* Hct-38.2* 
MCV-89 MCH-30.4 MCHC-34.3 RDW-12.6 Plt ___
___ 03:55AM BLOOD ___ PTT-25.6 ___
___ 06:30AM BLOOD Glucose-103* UreaN-16 Creat-1.1 Na-139 
K-4.1 Cl-106 HCO3-26 AnGap-11
___ 06:30AM BLOOD Calcium-8.4 Phos-2.0*# Mg-2.___ yo M with BPH presented with dysphagia after swallowing a 
fish bone and was diagnosed with pressure ulcer secondary to the 
fish bone and gastritis on EGD by GI.
.
# Pressure Ulcer / Gastritis - The patient was admitted to the 
MICU for concern of mediastinitis after swallowing a fish bone 
as CT of the chest showed esophageal thickening but no 
mediastinal air. In the MICU, EGD was performed by GI which 
found a large fish bone in the upper esophagus distal of the 
UES. The bone was pushed into the stomach. The patient was 
intubated for careful examination of the esophagus and concern 
for aspiration. After intubation, the exam was repeated and 
showed an ulcer at the site of the impacted fish bone in the at 
the upper esophageal sphincter as well as esophagitis localized 
to the GE junction and gastritis without bleeding. The patient 
was successfuly extubated following procedure.  Pathology on the 
fish bone was pending at the time of discharge.  The patient was 
started on carafate and PPI therapy.  H.pylori serology was sent 
and returned "equivocal".  The patient will continue on PPI 
therapy for ___ weeks.  Follow-up chest x-ray showed no 
mediastinal air.  He should have a follow-up EGD in 4 weeks to 
document resolution.
.
# Benign Prostatic Hypertension: The patient was continued on 
finasteride.
.
# CODE STATUS: FULL CODE
.
# Pending Labs:  Pathology from the foreign body removed during 
EGD on ___ was pending at the time of discharge.
.
# Transition of Care: The patient has follow-up scheduled with 
his PCP, ___, who will schedule him for an EGD in 4 
weeks.  If the patient's gastritis has improved his sucralfate 
and PPI should be discontinued.
 
Medications on Admission:
finasteride 5 mg daily

 
Discharge Medications:
1. omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
2. sucralfate 100 mg/mL Suspension Sig: Ten (10) mL PO four 
times a day for 2 months.
Disp:*1200 mL* Refills:*0*
3. finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Esophageal Pressure Ulcer secondary to 
swallowed fish bone, severe gastritis
Secondary Diagnosis: Benign Prostatic Hypertrophy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after you swallowed a fish 
bone and had pain with swallowing.  The GI doctors used ___ 
to look into your esophagus.  To do so safely, they had to 
temporarily intubate you.  They found an ulcer in your esophagus 
caused by the bone as well as severe inflammation of your 
stomach.  They were able to remove the bone and you were 
extubated.  You were started on two meds to reduce the pain and 
inflammation in your stomach.  You need to have a follow up EGD 
by the GI doctors in four ___.  Your primary care doctor ___ 
schedule this.  You should stay on your new medications for ___ 
weeks.
.
The following changes were made to your medications:
You were STARTED on omeprazole.
You were STARTED on sucralfate.
.
It wa a pleasure taking care of you.
 
Followup Instructions:
___